US06458780B1
A 0.95 M ethylmagnesium bromide/THF solution (12.6 ml) was added dropwise to a solution (50 ml) of 2.501 g of 7-iodoimidazo[5,1-b]thiazole in THF at −70° C. The mixture was stirred for 30 min. Carbon dioxide (which had been evolved from about 5 g of dry ice and passed through a calcium chloride tube) was introduced into the reaction solution at the same temperature over a period of 40 min. The reaction solution was allowed to stand at −20° C. overnight, and then added to an ice cold mixed solution composed of an aqueous sodium hydroxide (0.41 g) solution (100 ml) and ether (200 ml) with stirring. The mixture was stirred for one hr. The organic layer was separated and concentrated under the reduced pressure by a minor amount, and the remaining organic solvent was removed by distillation. The residue was adjusted to pH 3.5 by the addition of 2 N hydrochloric acid under ice cooling. The resultant precipitate was washed with a minor amount of cold water, and then dried under the reduced pressure to give 1.407 g of imidazo[5,1-b]thiazole-7-carboxylic acid.

reactant | ethylmagnesium bromide THF | 0.95 M, 12.6 ml | C(C)[Mg]Br.C1CCOC1
reactant | 7-iodoimidazo[5,1-b]thiazole | 50 ml, 2.501 g | IC=1N=CN2C1SC=C2 | C5H3IN2S
reactant | Carbon dioxide | about 5 g | C(=O)=O | CO2
reactant | sodium hydroxide | 0.41 g | [OH-].[Na+]
solvent | THF | C1CCOC1 | C4H8O
solvent | ether | 200 ml | CCOCC | C4H10O
product | imidazo[5,1-b]thiazole-7-carboxylic acid | 1.407 g | S1C=2N(C=C1)C=NC2C(=O)O | C6H4N2O2S
